US06191166B1
Synthesis of N-[N-(Pent-4-enoyl)-L-alaninyl]-L-phenylalanine Methyl Ester
Following General Procedure A and using N-(L-alaninyl)-L-phenylalanine methyl ester (prepared by coupling N-BOC-L-alanine (Sigma) and L-phenylalanine methyl ester (Sigma) using General Procedure A, followed by removal of the BOC-group using General Procedure Y) and pent-4-enoic acid (Aldrich), the title compound was prepared as a solid (mp=125.5-126.5° C.). The reaction was monitored by tlc (Rf=0.32 in 50% EtOAc/hexanes; 0.51 in 10% CH3OH/CH2Cl2) and the product was purified by flash chromatography using 10% CH3OH/CH2Cl2 as the eluent.

reactant | N-(L-alaninyl)-L-phenylalanine methyl ester | COC([C@@H](NC([C@@H](N)C)=O)CC1=CC=CC=C1)=O | C13H18N2O3
reactant | N-BOC-L-alanine | C(=O)(OC(C)(C)C)N[C@@H](C)C(=O)O | C8H15NO4
reactant | L-phenylalanine methyl ester | COC([C@@H](N)CC1=CC=CC=C1)=O | C10H13NO2
solvent | CH3OH CH2Cl2 | CO.C(Cl)Cl
product | N-[N-(Pent-4-enoyl)-L-alaninyl]-L-phenylalanine Methyl Ester | COC([C@@H](NC([C@@H](NC(CCC=C)=O)C)=O)CC1=CC=CC=C1)=O | C18H24N2O4
